US07601868B2
2-bromo-5-(1-pyrrolidinylmethyl)pyridine
A solution of 2-bromo-5-(bromomethyl)pyridine (9.06 g, 36.1 mmol), pyrrolidine (3.62 ml, 43.3 mmol) and potassium carbonate (9.98 g, 72.2 mmol) in acetonitrile (45 ml) was stirred at room temperature for 6 hrs. Ethyl acetate was added to the reaction mixture, and the mixture was washed with saturated aqueous potassium carbonate solution and saturated, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by NH-silica gel column chromatography (developing solvent; ethyl acetate) to give the title compound (7.31 g).

reactant | 2-bromo-5-(bromomethyl)pyridine | 36.1 mmol, 9.06 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
reactant | pyrrolidine | 43.3 mmol, 3.62 ml | N1CCCC1 | C4H9N
reactant | potassium carbonate | 72.2 mmol, 9.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 2-bromo-5-(1-pyrrolidinylmethyl)pyridine | 7.31 g | BrC1=NC=C(C=C1)CN1CCCC1 | C10H13BrN2
